US03932429
A mixture of 21.73 g of 1-(3-methoxyphenyl)-6-azabicyclo[3,2,1]octane-4,7-dione, 4.9 g of hydrazine hydrate and 170 ml of ethanol is refluxed for 1 hour. After cooling, the mixture is evaporated under reduced pressure to remove solvent. The residue thus obtained is dispersed in benzene and then filtered to give 21.64 g of 1-(3-methoxyphenyl)-6-azabicyclo[3,2,1]octane-4,7-dione-4-hydrazone as crude crystals. A mixture of 21.64 g of 1-(3-methoxyphenyl)-6-azabicyclo[3,2,1]octane-4,7-dione-4-hydrazone, 17.1 g of potassium tert.-butoxide and 400 ml of toluene is refluxed for 2 hours under heating. After cooling, water is added to the mixture, and the aqueous mixture is extracted with ether. The ether extract is washed with water, dried and then evaporated to remove solvent. The residue thus obtained is recrystallized from a mixture of ethylacetate and n-hexane. 17.54 g of 1-(3-methoxyphenyl)-6-azabicyclo[3,2,1]octane-7-one are obtained. M.p. 109° - 111°C.

reactant | 1-(3-methoxyphenyl)-6-azabicyclo[3,2,1]octane-4,7-dione-4-hydrazone | 21.64 g | COC=1C=C(C=CC1)C12CCC(C(NC1=O)C2)=NN | C14H17N3O2
reactant | potassium tert.-butoxide | 17.1 g | CC(C)([O-])C.[K+]
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1-(3-methoxyphenyl)-6-azabicyclo[3,2,1]octane-7-one | 17.54 g | COC=1C=C(C=CC1)C12CCCC(NC1=O)C2 | C14H17NO2
